US08012997B2
A 4N HCl solution in dioxane (1.5 mL) was added to a stirred solution of 7-[(tert-butoxy)carbonylamino]-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}heptanamide (0.72 g, 1.40 mmol) in CH2Cl2 (25 mL) and stirred for 17 hours. The resulting suspension was filtered to give 7-amino-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}heptanamide hydrochloride (0.26 g, 41%) as a white solid. mp 187-189° C.; 1H NMR (DMSO-d6) δ 11.12 (s, 1H), 8.52 (t, J=5.7 Hz, 1H), 7.93 (b, 3H), 7.88-7.67 (m, 3H), 5.18-5.11 (dd, J=5.3 and 12.4 Hz, 1H), 4.72 (d, J=5.7 Hz, 2H), 2.91-2.50 (m, 5H), 2.21 (t, J=7.2 Hz, 2H), 2.08-2.04 (m, 1H), 1.57-1.52 (m, 4H), 1.31-1.29 (m, 4H), 13C NMR (CDCl3) δ 172.70, 172.55, 169.77, 167.44, 166.90, 139.54, 134.68, 133.08, 131.47, 127.01, 121.77, 48.82, 38.64, 37.53, 35.00, 30.90, 28.05, 26.73, 25.50, 24.89, 21.95; Anal. Calcd. For C21H27N4O5Cl+0.64H2O: C, 54.95; H, 6.13; N, 12.21; Cl, 7,72. Found: C, 54.56; H, 6.10; N, 11.96; Cl, 8.04.

reactant | HCl | 4N | Cl | ClH
reactant | 7-[(tert-butoxy)carbonylamino]-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}heptanamide | 1.40 mmol, 0.72 g | C(C)(C)(C)OC(=O)NCCCCCCC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C26H34N4O7
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 7-amino-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}heptanamide hydrochloride | 0.26 g, 41% | Cl.NCCCCCCC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | InChI=1S/C21H26N4O5.ClH/c22-11-4-2-1-3-8-16(26)23-12-13-6-5-7-14-18(13)21(30)25(20(14)29)15-9-10-17(27)24-19(15)28;/h5-7,15H,1-4,8-12,22H2,(H,23,26)(H,24,27,28);1H
